US09212190B2
Ammonia gas was introduced in 50 mL of CH3OH at 5° C. for 15 min. To the above solution was added tert-butyl N-methyl-N-(4-[[(3R)-3-(2-oxoethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (700 mg, 1.57 mmol, 1.00 equiv), NaCN (93.1 mg, 1.90 mmol, 1.20 equiv) and NH4Cl (92.5 mg, 1.73 mmol, 1.10 equiv) successively. The resulting mixture was stirred for 16 h at room temperature and concentrated under reduced pressure. The residue was applied onto a silica gel column with dichloromethane/methanol (1:30) to afford tert-butyl N-(4-[[(3R)-3-(2-amino-2-cyanoethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (600 mg, 81%) as a yellow oil.

reactant | Ammonia | N | H3N
reactant | tert-butyl N-methyl-N-(4-[[(3R)-3-(2-oxoethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 1.57 mmol, 700 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC=O | C23H31N3O4S
reactant | NaCN | 1.90 mmol, 93.1 mg, 1.20 equiv | [C-]#N.[Na+]
reactant | NH4Cl | 1.73 mmol, 92.5 mg, 1.10 equiv | [NH4+].[Cl-]
solvent | CH3OH | 50 mL | CO | CH4O
product | tert-butyl N-(4-[[(3R)-3-(2-amino-2-cyanoethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 600 mg, 81% | NC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)C#N | C24H33N5O3S
